US05859007
To a stirred solution of 500 mg (1.98 mmol) 1-Phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2,4-dione in 15 mL DMF is added 103 mg (2.58 mmol, 1.3 equiv) 60 wt % NaH at ambient temperature and stirred 0.5 h. To this solution is added 504 mg (1.98 mmol, 1.0 equiv) 2-Bromo-N-cyclopropyl-N-phenyl-acetamide, prepared as in Part A, in 1 mL DMF and stirred 18 h at ambient temperature. The solvent is removed in vacuo and the residue taken into 50 mL EtOAc, washed successively with H2O (30 mL), 1N HCl (30 mL), satd. NaHCO3 (30 mL), and brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo to a brown oil. The crude product is purified by flash chromatography on 15 g silica gel eluted with EtOAc/Hexanes (1:1, 450 mL). Appropriate fractions were combined and concentrated in vacuo to give 572 mg (1.34 mmol) of N-Cyclopropyl-2-(2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-phenyl-acetamide as a white foam: 1H NMR (CDCl3, 300 MHz) δ7.50-7.07 (m, 13H), 6.92 (d, 1H, J=7.3), 3.60 (d, 1H, J=11.9), 3.51 (d, 1H, J=12.0), 3.30 (m, 1H), 0.86 (m, 2H), 0.60 (m, 2H); TLC Rf =0.35 (EtOAc/Hexanes, 2:1).

reactant | 1-Phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2,4-dione | 1.98 mmol, 500 mg | C1(=CC=CC=C1)N1C2=C(NC(CC1=O)=O)C=CC=C2 | C15H12N2O2
reactant | NaH | [H-].[Na+]
reactant | 2-Bromo-N-cyclopropyl-N-phenyl-acetamide | 1.98 mmol, 504 mg, 1.0 equiv | BrCC(=O)N(C1=CC=CC=C1)C1CC1 | C11H12BrNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-2-(2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-phenyl-acetamide | 1.34 mmol, 572 mg | C1(CC1)N(C(CN1C2=C(N(C(CC1=O)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C26H23N3O3
